US05008426
15. 6-(3,4,5-Trimethoxybenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
35.6 g (0.154 mol) of 3,4,5-trimethoxybenzoyl chloride were warmed to 100° C. under a nitrogen atmosphere. 35.5 g (0.154 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were then added dropwise while stirring, and the temperature was increased to 115° C. When the reaction was complete, 70 ml of toluene were added at 90° C., and the mixture was then cooled further. After crystallization, 44 g (70% of theory) of the abovementioned compound of melting point 147° to 149° C. were obtained.

reactant | 3,4,5-trimethoxybenzoyl chloride | 0.154 mol, 35.6 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 0.154 mol, 35.5 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3,4,5-Trimethoxybenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | COC=1C=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C=C(C1OC)OC | C22H19O6P
